US05585485
7-[[(2-amino-4-thiazolyl)-2-oxoacetyl]amino]-3-[[(1-methyl-1H-tetrazol-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-2-carboxylic Acid
3.29 g of 7-amino-3-[(1-methyl-1H-tetrazol-5-yl)thiomethyl]ceph-3-em-4-carboxylic acid are suspended in 25 ml of dichloromethane and mixed with 2.7 ml of N,O-bis-(trimethylsilyl)acetamide. After 15 minutes, a clear solution is present. This is cooled to -15°, and 3.9 g of 2-(2-aminothiazol-4-yl)-2-oxothioacetic-acid-S-benzothiazol-2-ylester are added. After stirring for four hours at -15°, the preparation is stirred into 100 ml of ethanol, whereby the end product precipitates. This is stirred for one hour at 0°, filtered, washed with ethanol and vacuum dried. Yield: 3.9 g, i.e. 80.7%. M.p.: from 145° (decomp.).

reactant | 7-amino-3-[(1-methyl-1H-tetrazol-5-yl)thiomethyl]ceph-3-em-4-carboxylic acid | 3.29 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | 2-(2-aminothiazol-4-yl)-2-oxothioacetic-acid-S-benzothiazol-2-ylester | 3.9 g | S1C(=NC2=C1C=CC=C2)SC(C(=O)C=2N=C(SC2)N)=O | C12H7N3O2S3
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 7-[[(2-amino-4-thiazolyl)-2-oxoacetyl]amino]-3-[[(1-methyl-1H-tetrazol-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-2-carboxylic Acid | NC=1SC=C(N1)C(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)CSC1=NN=NN1C)=O | C15H14N8O5S3
